### PR TITLE
Add the construction of a lambda-theory from an algebra for the lambda-calculus

### PR DESCRIPTION
**Pull request by arnoudvanderleer**
The first step in Hyland's fundamental theorem of the lambda-calculus: the construction of a lambda-theory from a Lambda-algebra.

### CODE REVIEW

File: UniMath/MoreFoundations/Sets.v [hunk 1]
```diff
@@ -200,14 +200,133 @@ Section mineqrel.
 
 End mineqrel.
 
+Definition mapeqrel_hrel
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Sets.v:203]: Why not make this function act on `hrel`?

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v [hunk 2]
```diff
@@ -0,0 +1,615 @@
...
+  1. The construction of the monoid [lambda_algebra_monoid]
+  2. The construction of the λ-theory with β-equality
+    [lambda_algebra_theory] [lambda_algebra_theory_has_beta]
+
+ **************************************************************************************************)
+Require Import UniMath.Foundations.All.
+Require Import UniMath.MoreFoundations.All.
+Require Import UniMath.Algebra.Monoids.
+Require Import UniMath.CategoryTheory.Categories.HSET.Core.
+Require Import UniMath.CategoryTheory.Core.Categories.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:26]: Tip: `UniMath.CategoryTheory.Core.Prelude.` is nice. Then you have to import less.

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v [hunk 3]
```diff
@@ -0,0 +1,615 @@
...
+    rewrite (move_action_through_vector_2 A _ _ v).
+    rewrite <- comp_action.
+    apply (maponpaths (λ x, action x _)).
+    exact (!compose_I1_abs_λ _).
+  Qed.
+
+  Definition functional_1_set
+    : hSet.
+  Proof.
+    use (total2_hSet (X := A)).
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:133]: Would it be good to use `(∑ _ , _)%set` here? I.e., you use the set scope.

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v [hunk 4]
```diff
@@ -0,0 +1,615 @@
...
+      : lambda_theory.
+    Proof.
+      use endomorphism_lambda_theory.
+      - exact (monoid_action_category lambda_algebra_monoid).
+      - apply terminal_monoid_action.
+      - apply binproducts_monoid_action_category.
+      - apply monoid_monoid_action.
+      - apply is_exponentiable_monoid_action.
+      - exact (inv_from_z_iso universal_monoid_exponential_iso · functional_abs).
+      - exact ((functional_app : monoid_action_category _ ⟦_, _⟧) · morphism_from_z_iso _ _ universal_monoid_exponential_iso).
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:592]: Something like this might have nicer indenting:
```suggestion
      - exact ((functional_app : monoid_action_category _ ⟦_, _⟧)
                · morphism_from_z_iso _ _ universal_monoid_exponential_iso).
```
(Fix it in your editor though, it is hard to do the indenting correct on github)

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v [hunk 5]
```diff
@@ -0,0 +1,1312 @@
...
+    := ∑ (X: hSet), X → M → X.
+
+  Definition make_monoid_action_data
+    (X : hSet)
+    (op : X → M → X)
+    : monoid_action_data
+    := X ,, op.
+
+  Coercion monoid_action_data_to_hset (x : monoid_action_data) : hSet := pr1 x.
+  Definition op {X : monoid_action_data} : X → M → X := pr2 X.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:60]: Are there better names than `op`? `op` is overused

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v [hunk 6]
```diff
@@ -0,0 +1,1312 @@
...
+  Defined.
+
+(** * 2. The definition of a morphism of M-actions *)
+
+  Definition monoid_action_morphism_data
+    (X X' : monoid_action_data)
+    : UU
+    := X → X'.
+
+  Definition monoid_action_morphism_data_to_function {X X' : monoid_action_data} (f : monoid_action_morphism_data X X') : X → X' := f.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:135]: This can be split on multiple lines

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v [hunk 7]
```diff
@@ -0,0 +1,1312 @@
...
+        intros x m;
+        refine (_ @ monoid_action_morphism_commutes _ _ _);
+        apply maponpaths;
+        apply monoid_action_morphism_commutes
+      ).
+  Defined.
+
+(** * 3. The category of M-actions *)
+
+  Definition monoid_action_category
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:231]: This can be constructed as a displayed category over `hSet`, right? What is the reason to use this construction instead?

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v [hunk 8]
```diff
@@ -0,0 +1,1312 @@
...
+        intro.
+        exact (maponpaths (λ x, F (_ ,, x)) (!monoid_action_assocax _ _ _)).
+      Qed.
+
+      Definition monoid_action_cat_induced_morphism
+        : monoid_action_morphism X'' exponential_object
+        := make_monoid_action_morphism _ monoid_action_cat_induced_is_morphism.
+
+      Lemma monoid_action_cat_induced_morphism_commutes
+        : F = # (constprod_functor1 binproducts_monoid_action_category X) monoid_action_cat_induced_morphism · exponential_object_morphism.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:562]: This can be split over multiple lines

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v [hunk 9]
```diff
@@ -0,0 +1,1312 @@
...
+      Proof.
+        apply monoid_action_morphism_eq.
+        intro.
+        apply (maponpaths (λ x, F (_ ,, x))).
+        exact (!monoid_action_unax _).
+      Qed.
+
+      Lemma monoid_action_cat_induced_morphism_unique
+        (t : ∑ (f' : monoid_action_morphism X'' exponential_object), F = # (constprod_functor1 binproducts_monoid_action_category X) f' · exponential_object_morphism)
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:571]: It is a bit difficult to read this due to how it is split over lines

**Review by nmvdw — APPROVED** [review]

File: UniMath/MoreFoundations/Sets.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Sets.v:203]: Good idea!

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:26]: Fair. I might do that more often :smile: 
In this case, I don't need univalence or natural transformations, so I thought I'd take a more "minimalist" approach.

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:133]: Ooh, didn't know that that was a thing.

File: UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v (hunk 2 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/FundamentalTheorem/AlgebraToTheory.v:26]: It is not necessary, but it might be more convenient to use.

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:60]: Would you prefer `action`?

Comment (nmvdw) [reply UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:60]: Yes. `op` is used massively in the algebra directory if i recall correctly.

File: UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v (hunk 7 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FundamentalTheorem/CommonUtilities/MonoidActions.v:231]: Because of laziness. I changed it now.

**Comment by arnoudvanderleer** [comment]
@nmvdw @benediktahrens Can this be merged now?

**Comment by nmvdw** [comment]
Error:  File "./UniMath/AlgebraicTheories/FundamentalTheorem/SpecificUtilities/LambdaTerms.v", line 66, characters 6-81:
  Error:
  Found no subterm matching "extend_tuple ?f ?last (dni lastelement ?s)" in the current goal.

**Comment by arnoudvanderleer** [comment]
Uh oh

**Comment by arnoudvanderleer** [comment]
I'll have a look.

**Comment by arnoudvanderleer** [comment]
@nmvdw I got it working again.
